US07138426B2
Preparation of 2(S)-(3-(S)-methylpyrrolidinyl)-propan-1-ol
A solution of 2-(S)-methyl-1,4-dibromobutane (2.70 g, 0.012 moles) in anhydrous acetonitrile (8 mL) was added to a mixture of of (S)-(+)-2-amino-1-propanol (0.882 g, 0.012 moles, Aldrich) and potassium carbonate (3.25 g, 0.024 moles) in anhydrous acetonitrile (92 mL). The resulting mixture was refluxed for 22 hours then cooled to room temperature and concentrated under vacuum to an oily white solid. Dichloromethane (50 mL) and saturated aqueous potassium carbonate (10 mL) were added followed by just enough water to dissolve all solid. The layers (upper layer organic, lower layer aqueous) were separated and the aqueous layer was saturated with sodium chloride and extracted with dichloromethane (2×50 mL). The combined organic layers were dried over magnesium sulfate and potassium carbonate, filtered and evaporated to a light yellow liquid. This crude product was purified by column chromatography on silica gel eluted with 10:7:2:1 ethyl acetate:hexane:methanol:triethylamine to afford the title compound as a light yellow liquid. NMR: (CDCl3, 600 MHz) δ 3.52 & 3.32 (2H, 2 dd, J=5, 10 Hz, H1), 3.36 (1H, br s, OH), 2.79 (1H, t, J=8 Hz, H2′a), 2.54–2.58 (1H, m, H2), 2.66–2.72 & 2.56–2.62 (4H, 2m, H5′), 2.13–2.21 (1H, m, H3′), 2.08 (1H, td, J=8 Hz, H2′b), 1.92–2.00 & 1.25–1.33 (4H, 2m, & H4′), 1.00 (3H, d, J=7 Hz, H3′Me), 0.99 (3H, d, J=7 Hz, H3); MS (electrospray): m/e 144 (M+H), 126 (M−OH). [α]D+3.4°.

reactant | 2-(S)-methyl-1,4-dibromobutane | 0.012 moles, 2.70 g | C[C@H](CBr)CCBr | C5H10Br2
reactant | (S)-(+)-2-amino-1-propanol | 0.012 moles, 0.882 g | N[C@H](CO)C | C3H9NO
reactant | potassium carbonate | 0.024 moles, 3.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | acetonitrile | 92 mL | C(C)#N | C2H3N
product | 2(S)-(3-(S)-methylpyrrolidinyl)-propan-1-ol | C[C@@H]1CN(CC1)[C@H](CO)C | C8H17NO
